US06664293B2
To a stirred solution of 1,2,3,6-tetrahydropyridine (82 mg) in tetrahydrofuran (2 ml) was added 4-fluorophenyl-isocyanate (0.112 ml) at ambient temperature. After stirring at ambient temperature for 10 hours, the solvent was removed by evaporation under reduced pressure, and the residue was triturated with diisopropyl ether to give 1-(4-fluorophenylcarbamoyl)-1,2,3,6-tetrahydropyridine (117 mg).

reactant | 1,2,3,6-tetrahydropyridine | 82 mg | N1CCC=CC1 | C5H9N
reactant | 4-fluorophenyl-isocyanate | 0.112 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(4-fluorophenylcarbamoyl)-1,2,3,6-tetrahydropyridine | 117 mg | FC1=CC=C(C=C1)NC(=O)N1CCC=CC1 | C12H13FN2O
